US08975256B2
8-(2-Methoxyphenylaminomethyl)-7-[2-methoxy-4-(pyridin-3-ylcarbonyloxy)phenyl]-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 21-1)
7-(4-Hydroxy-2-methoxyphenyl)-8-[N-(2-methoxyphenyl)-N-(9-fluorenylmethoxycarbonyl)aminomethyl]-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 13-1, 30.0 mg, 0.0448 mmol) was dissolved in mixed solvent of tetrahydrofuran (1 mL) and dichloromethane (1 mL), and triethylamine (25 μL, 0.18 mmol) and nicotynoyl chloride hydrochloride (12.0 mg, 0.0674 mmol) were added successively. After the reaction mixture was stirred for 40 minutes at room temperature, it was purified by silica gel column chromatography (hexane-ethyl acetate). The obtained colorless amorphous product was dissolved in N,N-dimethylformamide (1 mL) and piperidine (50 μL) was added thereto. After the reaction mixture was stirred for 20 minutes at room temperature, it was diluted with ethyl acetate (50 mL). The mixture was washed with water (50 mL) and saturated brine (50 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (13.0 mg) as a colorless solid. (Yield 52%)

reactant | 7-(4-Hydroxy-2-methoxyphenyl)-8-[N-(2-methoxyphenyl)-N-(9-fluorenylmethoxycarbonyl)aminomethyl]-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | OC1=CC(=C(C=C1)C1=CC=C2NC(C(N(C2=C1CN(C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C1=C(C=CC=C1)OC)C)=O)(C)C)OC | C41H39N3O6
reactant | triethylamine | 0.18 mmol, 25 μL | C(C)N(CC)CC | C6H15N
reactant | chloride hydrochloride | 0.0674 mmol, 12.0 mg | Cl.[Cl-]
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 8-(2-Methoxyphenylaminomethyl)-7-[2-methoxy-4-(pyridin-3-ylcarbonyloxy)phenyl]-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 13.0 mg, Yield 52% | COC1=C(C=CC=C1)NCC=1C(=CC=C2NC(C(N(C12)C)=O)(C)C)C1=C(C=C(C=C1)OC(=O)C=1C=NC=CC1)OC | C32H32N4O5
